US09422233B2
Synthesis of N-(benzyloxy)heptan-1-amine, Compound 12a (R=n-hexyl)
Oxime 11a (570 mg, 2.60 mmol) was dissolved in 15 mL of HPLC grade methanol. To the stirred solution was added a tiny portion of methyl orange indicator and then NaCNBH3 (817 mg, 5×2.60 mmol). Dropwise addition of concentrated HCl, at intervals, was carried out until the pink color persisted for 0.5 h. [Note: The addition of acid required approximately 2 h] The mixture was stirred overnight at room temp. The methanol was removed under reduced pressure in a fume hood. The dry residue was taken up in 100 mL of CH2Cl2 and the resulting solution extracted with 75 mL of 1N KOH. The aqueous layer was extracted with 2×40 mL of CH2Cl2. The organic extracts were combined and dried over MgSO4, filtered and concentrated. Purification by column chromatography on silica gel eluting with CH2Cl2/hexanes (9:1) gave 475 mg (83%) of a clear oil: Rf=0.36 (dichloromethane/hexanes, 95:5, v/v); 1H NMR (CDCl3) δ 7.36-7.28 (m, 5H), 4.77 (s, 2H), 2.96-2.93 (m, 2H), 1.57-1.51 (m, 2H), 1.33-1.22 (m, 8H) and 0.86 t, 3J=7.0 Hz, 3H). Exact mass (FAB+) calculated for C14H24NO [M+H] 222.1852. Found 222.1861.

reactant | methyl orange | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
reactant | NaCNBH3 | 2.60 mmol, 817 mg | [BH3-]C#N.[Na+]
reactant | HCl | Cl | ClH
reactant | methanol | CO | CH4O
product | N-(benzyloxy)heptan-1-amine | 475 mg, 83% | C(C1=CC=CC=C1)ONCCCCCCC | C14H23NO
